US05847122
A mixture of (2R,3S)-3-(4-methoxyphenyl)-2,3-epoxy-N-methylpropionamide (829 mg) and xylene (10 ml) is refluxed with heating under nitrogen atmosphere. When the reflux is started, a solution of 2-aminothiophenol (551 mg) and anhydrous ferric chloride (0.065 mg) in methanol (0.08 ml) is added immediately into the reaction mixture, and the mixture is reacted at the same temperature for 5 minutes, and cooled to room temperature. The precipitated crystals are collected by filtration, washed with xylene, and dried at 60° C. to give (2S,3S)-3-(2-aminophenylthio)-2-hydroxy-3-(4-methoxyphenyl)-N-methylpropionamide (1.06 g).

reactant | (2R,3S)-3-(4-methoxyphenyl)-2,3-epoxy-N-methylpropionamide | 829 mg | COC1=CC=C(C=C1)[C@H]1[C@H](C(=O)NC)O1 | C11H13NO3
reactant | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | 2-aminothiophenol | 551 mg | NC1=C(C=CC=C1)S | C6H7NS
solvent | methanol | 0.08 ml | CO | CH4O
product | (2S,3S)-3-(2-aminophenylthio)-2-hydroxy-3-(4-methoxyphenyl)-N-methylpropionamide | 1.06 g | NC1=C(C=CC=C1)S[C@H]([C@H](C(=O)NC)O)C1=CC=C(C=C1)OC | C17H20N2O3S
